US04914092
(b) 2-Chloro-N-methyl-N-[2-oxo-2-(perhydro-1-azepinyl)ethyl]ethylamine
A mixture of 5.7 g (27 mmol) of 2-{N-[2-oxo-2- (perhydro-1-azepinyl) ethyl]methylamino}ethanol, dissolved in 50 ml of chloroform, and 6 ml (excess) of thionyl chloride is heated under reflux for 2 h.

reactant | 2-{N-[2-oxo-2- (perhydro-1-azepinyl) ethyl]methylamino}ethanol | 27 mmol, 5.7 g | O=C(CN(CCO)C)N1CCCCCC1 | C11H22N2O2
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-N-methyl-N-[2-oxo-2-(perhydro-1-azepinyl)ethyl]ethylamine | ClCCN(CC(N1CCCCCC1)=O)C | C11H21ClN2O
